US06743918B2
9-Methoxycamptothecin (9-MC; 10.0 g, 26.43 mmol) was suspended in 47% hydrobromic acid (200 ml), degassed by suction and then displaced by argon gas, and refluxed for 3.5 hr. The reaction mixture was cooled to ambient temperature and poured into water (900 ml) in portion wise under stirring. The deposit was collected on a celite pad and washed with water. The obtained material by filtration was dissolved in chloroform containing 20% methanol, added with active carbon (20 g) and anhydrous sodium sulfate, stirred for 1 hr, filtered, concentrated to dryness under reduced pressure to give a crude product. The crude product was purified through silica gel column chromatography (chloroform containing 8% methanol) to give 9-hydroxycamptothecin (9-HC) as a brown solid; mp 231-237° C. (decomposition) (6.47 g, yield 67%).

reactant | 9-Methoxycamptothecin | 26.43 mmol, 10.0 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=C(C5=C4)OC)O | C21H18N2O5
solvent | hydrobromic acid | 200 ml | Br | BrH
product | 9-hydroxycamptothecin | yield 67% | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)NC5=CC=CC(=O)C5=C4)O | C20H16N2O5
